US04232010
6.08 g (0.2 mol) of 4-(benzothiazol-2-yl) bromomethylbenzene was reacted with 10 ml of trimethyl phosphite in nitrogen gas at 130°-160° C. for 15 minutes. The reaction mixture was allowed to cool down to room temperature and the resulting crystals were crystallized from n-hexane to give 3.9 g (83%) of colorless flakes of 1-(benzothiazol-2-yl)-4-dimethoxyphosphinylmethylbenzene melting at 129.5°-130.5° C.

reactant | 4-(benzothiazol-2-yl) bromomethylbenzene | 0.2 mol, 6.08 g | S1C(=NC2=C1C=CC=C2)C2=CC=C(C=C2)CBr | C14H10BrNS
reactant | trimethyl phosphite | 10 ml | P(OC)(OC)OC | C3H9O3P
product | 1-(benzothiazol-2-yl)-4-dimethoxyphosphinylmethylbenzene | S1C(=NC2=C1C=CC=C2)C2=CC=C(C=C2)CP(=O)(OC)OC | C16H16NO3PS
